US05227486
Preparation of 4,5-dichloro-2-methyl-1-(4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-imidazole
A mixture of 450 g (1.5 moles) of 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4,5]decane bromide, 225 g (1.5 moles) of 4.5-dichloro-2-methylimidazole and 300 g (2.25 moles) of potassium carbonate in 2 l of dimethylformamide is heated to 130°-135° for 14 hours. The mixture is evaporated under vacuum, chloroform is added, the solution is washed with water, dried over sodium sulfate and evaporated under vacuum, and 503 g (91%) of 4,5-dichloro-2-methyl-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-imidazole are obtained in liquid form.

reactant | 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4,5]decane bromide | 1.5 moles, 450 g | [Br-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1
reactant | 4.5-dichloro-2-methylimidazole | 1.5 moles, 225 g | ClC=1N=C(NC1Cl)C | C4H4Cl2N2
reactant | potassium carbonate | 2.25 moles, 300 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 l | CN(C=O)C | C3H7NO
product | 4,5-dichloro-2-methyl-1-(4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-imidazole | ClC=1N=C(N(C1Cl)CCCCN1CCN(CC1)C1=NC=CC=N1)C | C16H22Cl2N6
